* source LAB4-AHMED
Q_Q2         N00585 N00559 0 Qbreakn 
R_R1         N00559 N00566  150K TC=0,0 
R_R2         0 N00559  10K TC=0,0 
R_R3         N00585 N00566  4.7K TC=0,0 
R_R4         0 N00610  10K TC=0,0 
C_C1         N00555 N00559  1u  TC=0,0 
C_C2         N00585 N00610  1u  TC=0,0 
V_V1         N00566 0 10V
V_V2         N00555 0 DC 0Vdc AC 0.01V 
